US06028195
a) 3,4-Dimethyl anisole
To 3,4-dimethylphenol(19.3 g, 0.16 mol), methanol(150 ml) and KOH(9.65 g, 0.25 mol) were added and then refluxed for 2 hrs. Methyl iodide(36.5 g, 0.25 mol) was added thereto, refluxed for 3 hours and then followed by addition of water(150 ml). The resulting mixture was extracted with ethylacetate and purified by column chromatography to obtain the titled compound.

reactant | 3,4-dimethylphenol | 0.16 mol, 19.3 g | CC=1C=C(C=CC1C)O | C8H10O
reactant | methanol | 150 ml | CO | CH4O
reactant | KOH | 0.25 mol, 9.65 g | [OH-].[K+]
reactant | Methyl iodide | 0.25 mol, 36.5 g | CI | CH3I
solvent | water | 150 ml | O | H2O
product | 3,4-Dimethyl anisole | yield: 81% | CC=1C=C(C=CC1C)OC | C9H12O
